US04404214
1.67 g of 4-methoxy-2-pyridinecarboxylic acid, 20 ml of thionyl chloride and 1.2 g of 5-aminotetrazole are treated in the same manner as described in Example 1. The crude product thus obtained is recrystallized from ethanol, whereby 0.28 g of N-(5-tetrazolyl)-4-methoxy-2-pyridinecarboxamide is obtained.

reactant | 4-methoxy-2-pyridinecarboxylic acid | 1.67 g | COC1=CC(=NC=C1)C(=O)O | C7H7NO3
reactant | 5-aminotetrazole | 1.2 g | NC1=NN=NN1 | CH3N5
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | N-(5-tetrazolyl)-4-methoxy-2-pyridinecarboxamide | 0.28 g | N1N=NN=C1NC(=O)C1=NC=CC(=C1)OC | C8H8N6O2
